US05891909
b) 3-[3-(2-Methoxy-5-methylphenylsulfonyloxy)-5-methylphenoxy]propanol
To 458 mg (1.49 mmol) 3-(2-methoxy-5-methylphenylsulfonyloxy)-5-methylphenol, as prepared in the preceding step, 1.08 mL (14.9 mmol) of 1,3-propanediol and 782 mg (2.98 mmol) of triphenylphosphine in 10 mL of anhydrous tetrahydrofuran was added 0.470 mL (2.98 mmol) of diethyl azodicarboxylate dropwise over 15 min. After stirring at ambient temperature for 2 h, the reaction mixture was concentrated to a semisolid. The resulting mixture was flash chromatographed on 50 g of silica gel with 8-10% ethyl acetate-dichloromethane. Impure fractions were re-chromatographed on 40 g of silica gel with 50-100% ethyl acetate-hexane. Material from the two purifications was combined to afford 530 mg (97% yield) of the title compound as a colorless oil: 1H-NMR (300 MHz; CDCl3) δ 7.95 (d, 1 H, J=2.2 Hz), 7.40 (dd, 1 H, J=8.5, 2.3 Hz), 6.97 (d, 1 H, J=8.5 Hz), 6.59 (br s, 1 H), 6.53 (br s, 1 H), 6.47 (t, 1 H, J=2.1 Hz), 4.01 (t, 2 H, J=6.0 Hz), 3.98 (s, 3 H), 3.81 (q, 2 H, J=5.7 Hz), 2.29 (s, 3 H), 2.25 (s, 3 H) and 1.98 (m, 2 H).

reactant | 3-(2-methoxy-5-methylphenylsulfonyloxy)-5-methylphenol | 1.49 mmol, 458 mg | COC1=C(C=C(C=C1)C)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C15H16O5S
reactant | 1,3-propanediol | 14.9 mmol, 1.08 mL | C(CCO)O | C3H8O2
reactant | triphenylphosphine | 2.98 mmol, 782 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.98 mmol, 0.470 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-[3-(2-Methoxy-5-methylphenylsulfonyloxy)-5-methylphenoxy]propanol | 530 mg, 97% yield | COC1=C(C=C(C=C1)C)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C18H22O6S
